US06919352B2
The following transformation was performed in the dark. To a cold (0° C.) solution of N′-{[7-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-1,3-benzenediamine (16.5 mg, 0.03 mmol) in acetic acid/water (80/20, 1 mL) was added aqueous sodium nitrite (0.32 mL of a stock solution prepared by dissolving 200 mg of sodium nitrite in 25 mL water, 0.04 mmol). The resultant dark solution was stirred at 0° C. for 15 minutes. Aqueous sodium azide (0.11 mL of a stock solution prepared by dissolving 200 mg of sodium azide in 10 mL of water, 0.04 mmol) was added and the resultant solution was stirred for 1.5 hours over which time it was allowed to warm to room temperature. Ether was added and the solution made basic by dropwise addition of saturated aqueous sodium bicarbonate. The organic layer was washed with brine. The aqueous layer was extracted with ethyl acetate and the combined organics were dried over magnesium sulfate. Filtration and concentration gave a solid residue which was purified by flash chromatography (4:1 to 2:1 hexanes-ethyl acetate) to provide 3-[2-(3-azidoanilino)-4-pyrimidinyl]-N-cyclopentyl-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-amine (4 mg, 23%) as a tinted solid. 1H NMR (CDCl3): δ 8.12 (d, 1 H), 7.71 (d, 1 H), 7.60-7.56 (m, 3 H), 7.33-7.25 (m, 3 H), 6.98 (d, 2H), 6.70 (d, 1 H), 6.54 (d, 1 H), 6.05-6.04 (m, 2 H), 4.00 (m, 1 H), 3.87 (s, 3 H), 2.13 (m, 2 H), 1.85-1.58 (m, 6 H); MS m/z 518 (M+1).

reactant | N′-{[7-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-1,3-benzenediamine | 0.03 mmol, 16.5 mg | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC=2C=C(C=CC2)N)C2=CC=C(C=C2)OC | C29H29N7O
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium nitrite | 200 mg | N(=O)[O-].[Na+]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 200 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid water | 1 mL | C(C)(=O)O.O
solvent | water | 25 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | Ether | CCOCC | C4H10O
product | 3-[2-(3-azidoanilino)-4-pyrimidinyl]-N-cyclopentyl-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-amine | 4 mg, 23% | N(=[N+]=[N-])C=1C=C(NC2=NC=CC(=N2)C=2C(=NN3C2C=CC=C3NC3CCCC3)C3=CC=C(C=C3)OC)C=CC1 | C29H27N9O
